US07319104B2
4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)-2-methylphenol
Similarly prepared from 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]pyrimidin-2-amine and 4-trifluoromethylbenzyl bromide.

reactant | 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]pyrimidin-2-amine | C(C)C=1C=NC(=NC1)NCCC1=CC(=C(C=C1)OC)C | C16H21N3O
reactant | 4-trifluoromethylbenzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
product | 4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)-2-methylphenol | C(C)C=1C=NC(=NC1)N(CCC1=CC(=C(C=C1)O)C)CC1=CC=C(C=C1)C(F)(F)F | C23H24F3N3O
